US08859784B2
To a 100-mL flask was added 40 mL of dH2O and 1.8 mL of 6,6-dimethyl-3-azabicyclo[3.1.0]hexane to provide a homogeneous solution with a pH of approximately 11.4. To this solution was added 2.7 g of Na2S2O5 to provide a homogeneous solution and the pH was adjusted to about 7.5 with approximately 1 mL of 8N NaOH. To this solution was added 60 μL of Antifoam-204 (Sigma catalog number A-6226),120 μL of A. niger catalase suspension (Sigma Aldrich; catalog number C-3515) and 300 mg of monoamine oxidase powder of the polypeptide of SEQ ID NO 8 (prepared by the method of Example 2) in 10 mL of 100 mM pH 8.0 potassium phosphate buffer. Air was sparged into the reaction mixture through fritted glass at a rate of ˜10 mL/min and the resulting pale yellow solution was stirred under air for 24 hours at room temperature (about 21° C.) for 24 hours. Throughout, the pH was maintained at 7.4 via feedback controlled addition of 2.5N NaOH in 1 μL portions. After 24 hours, 1.0 g (1.3 equiv) of NaCN was added to the reaction mixture then comprising (1R,2S,5S)-6,6-dimethyl-3-azabicyclo[3.1.0]hexane-2-sulfonate. After stirring at room temperature (about 21° C.) for an additional 15 minutes, the mixture was extracted with MTBE. (2-Me-THF can also be used for the extraction.) Following phase separation and solvent removal, 1.78 g (90% yield) of (1R,25,55)-6,6-dimethyl-3-azabicyclo[3.1.0]hexane-2-carbonitrile was isolated a pale yellow solid. Analysis by 1H-NMR in CDCl3 confirmed preparation of (1R,2S,5S)-6,6-dimethyl-3-azabicyclo[3.1.0]hexane-2-carbonitrile (1H-NMR (300 MHz, CDCl3) spectrum: δ 3.92 (d, J=1.2, 1H, NC(H)(CN)), 3.25 (m, 1H), 2.96 (dd, J=2.1, 17.0), 1.48 (dd; J=1.2, 12.2; 1H), 1.42 (m, 1H), 1.13 (s, 3H), 1.11 (S, 3H)).

reactant | 6,6-dimethyl-3-azabicyclo[3.1.0]hexane | 1.8 mL | CC1(C2CNCC12)C | C7H13N
reactant | NaOH | 8N, approximately 1 mL | [OH-].[Na+]
reactant | potassium phosphate | 100 mM, pH 8.0 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | NaCN | 1.0 g, 1.3 equiv | [C-]#N.[Na+]
reactant | (1R,2S,5S)-6,6-dimethyl-3-azabicyclo[3.1.0]hexane-2-sulfonate | CC1([C@H]2CN[C@H]([C@@H]12)S(=O)(=O)[O-])C
product | (1R,25,55)-6,6-dimethyl-3-azabicyclo[3.1.0]hexane-2-carbonitrile | 1.78 g, 90% yield | CC1([C@H]2CN[C@@H]([C@@H]12)C#N)C | C8H12N2
